US04156693
The process, according to claim 1, which comprises reacting N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide with oxetane in aqueous solution at a temperature of about 100° C., thereby forming 3[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium bromide, reacting the latter compound with aqueous hydrochloric acid to form 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride, and reacting the said 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride with thionyl chloride to form 3-[N'-(3-chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride.

reactant | N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide | [Br-].C[N+](CCCNC)(C)C
reactant | oxetane | O1CCC1 | C3H6O
reactant | 3[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium bromide | [Br-].OCCCN(C)CCC[N+](C)(C)C
reactant | hydrochloric acid | Cl | ClH
product | 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride | Cl.[Cl-].OCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H25N2O.2ClH/c1-11(8-6-10-13)7-5-9-12(2,3)4;;/h13H,5-10H2,1-4H3;2*1H/q+1;;/p-1
